datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([H:10])[H:11])[C:3](=[O:4])[O:5][O:6][C:7]([H:12])([H:13])[H:14])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1](=[C:2]([H:10])[H:11])[C:3](=[O:4])[O:5]1.[O:6][C:7]([H:12])([H:13])[H:14],78.3663
[C:0](#[C:1][C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:25])[H:26])[H:24])=[C:10]([C:11]([H:27])([H:28])[H:29])[C:12](=[C:13]([H:31])[H:32])[H:30])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14]>>[C:0](#[C:1][C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([C:8](=[C:9]([H:25])[H:26])[H:24])[C:10]1([C:11]([H:27])([H:28])[H:29])[C:12](=[C:13]([H:31])[H:32])[H:30])[H:14],60.7098
[C:0]([C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])=[C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])[C:5]1([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20],130.666
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:17][O:27],8.811504
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:8])[H:7],7.07096
[C:0](=[C:1]([C:2]([C:3]1=[C:4]([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])[C:8]1([H:18])[H:19])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:19])([H:12])[H:13])[H:11])([H:9])[H:10].[H:18],108.691952
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12]([C:13](=[S:14])[H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:12]([C:11]([H:15])([H:16])[H:17])([C:13](=[S:14])[H:19])[H:18],30.1248
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9][O:10]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][O:9][O:10],245.89368
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[c:12]1([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:18])[H:5].[c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23],119.286
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([S:4][C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[H:9])[H:8])([H:6])[H:7].[S:4]([C:5]([H:13])([H:14])[H:15])[H:16],8.368
[C:0]([C:1]([C:2]([O:3][O:4][H:11])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[O:12][O:13]>>[C:0]([C:1]([C:2]([O:3][O:4][H:11])([H:9])[H:10])([H:8])[O:12][O:13])([H:5])([H:6])[H:7],-2.244716
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[H:8][H:9]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:9])[H:5].[H:8],103.345
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]1[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]1([H:10])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])([H:8])[H:9],159.829
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][C:17]([H:18])([H:19])[H:20],29.932336
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10](=[O:11])[H:12]>>[C-:10]#[O+:11].[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:12])([H:3])([H:4])[H:5],0.0
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]1([H:18])[C:10]([H:19])([H:20])[C:11]2([H:21])[C:12]([H:22])([H:23])[C:13]([H:24])([H:25])[C:14]([H:26])([H:27])[C:15]([H:28])([H:29])[C:16]2([H:30])[C:17]1([H:31])[H:32]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9]1([H:18])[C:10]([H:19])([H:20])[C:11]2([H:21])[C:12]([H:22])([H:23])[C:13]([H:24])([H:25])[C:14]([H:26])([H:27])[C:15]([H:28])([H:29])[C:16]2([H:30])[C:17]1([H:31])[H:32],31.7984
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])([C:9]([H:17])([H:18])[H:19])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:13])[H:3].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[C:9]([H:17])([H:18])[H:19])([H:10])([H:11])[H:12],64.4336
